US08008305B2
6-(4-Methyl-piperazin-1-yl)-N-[2-(4-phenoxy-phenyl)-ethyl]-4-trifluoromethyl-nicotinamide
In analogy to example 1 methyl 6-chloro-4-(trifluoromethyl)nicotinate was reacted with N-methylpiperazine and then, using 4-phenoxyphenethylamine in the coupling step, converted to 6-(4-methyl-piperazin-1-yl)-N-[2-(4-phenoxy-phenyl)-ethyl]-4-trifluoro-methyl-nicotinamide. Off-white solid. MS (ISP): 485.2 ([M+H]+)

reactant | methyl 6-chloro-4-(trifluoromethyl)nicotinate | ClC1=NC=C(C(=O)OC)C(=C1)C(F)(F)F | C8H5ClF3NO2
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | 4-phenoxyphenethylamine | O(C1=CC=CC=C1)C1=CC=C(CCN)C=C1 | C14H15NO
product | 6-(4-Methyl-piperazin-1-yl)-N-[2-(4-phenoxy-phenyl)-ethyl]-4-trifluoromethyl-nicotinamide | CN1CCN(CC1)C1=NC=C(C(=O)NCCC2=CC=C(C=C2)OC2=CC=CC=C2)C(=C1)C(F)(F)F | C26H27F3N4O2
